US08334382B2
6. (6-{4-[6-(4-Fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridin-3-yl)-acetic acid
Stir a solution of (6-{4-[6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridin-3-yl)-acetic acid tert-butyl ester (210 mg, 0.375 mmol) and 1 mL of TFA in DCM (10 mL) at room temperature for 16 h. Concentrate and partition between EtOAc and sat. NaHCO3. Dry the organic layer (Na2SO4) and concentrate under reduced pressure. Purify using flash chromatography eluting with MeOH-DCM (1:19) to give the title compound.

reactant | (6-{4-[6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridin-3-yl)-acetic acid tert-butyl ester | 0.375 mmol, 210 mg | C(C)(C)(C)OC(CC=1C=NC(=C(C1)C)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](CCC1)C)C)=O | C32H41FN6O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (6-{4-[6-(4-Fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridin-3-yl)-acetic acid | FC1=CC=C(C=C1)C1=CC(=NC(=N1)N1[C@@H](CCC1)C)N1[C@@H](CN(CC1)C1=C(C=C(C=N1)CC(=O)O)C)C | C28H33FN6O2
